US05420115
2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine bis hydrochloride
To a solution of 2-amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine (300 mg 1.11 mmol) in MeOH (20 ml) was added isopropanol (2.5 ml) previously saturated with hydrochloride (HCL) gas. Acetone (15 ml) was added and the solution evaporated to almost dryness under vacuum at room temperature. Trituration with ethyl acetate (15 ml) produced a white solid which was filtered and washed with ether.

reactant | 2-amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine | 1.11 mmol, 300 mg | NC1=NC=C2N=CN(C2=N1)[C@H]1[C@@H]([C@H](O)[C@H](O1)CO)F | C10H12FN5O3
reactant | isopropanol | 2.5 ml | C(C)(C)O | C3H8O
reactant | hydrochloride | Cl | ClH
reactant | Acetone | 15 ml | CC(=O)C | C3H6O
solvent | MeOH | 20 ml | CO | CH4O
product | 2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine bis hydrochloride | Cl.Cl.NC1=NC=C2N=CN(C2=N1)[C@H]1[C@@H]([C@H](O)[C@H](O1)CO)F | InChI=1S/C10H12FN5O3.2ClH/c11-6-7(18)5(2-17)19-9(6)16-3-14-4-1-13-10(12)15-8(4)16;;/h1,3,5-7,9,17-18H,2H2,(H2,12,13,15);2*1H/t5-,6-,7-,9-;;/m1../s1
